US07282588B2
Preparation of N,N-dimethyl-N′-[4-(4-{2-[4-(1-pyrrolidinylmethyl)phenyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1H-pyrazol-3-yl)phenyl]urea
Following the procedure described for Intermediate 101 using N′-(4-{4-[2-(4-formylphenyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-1H-pyrazol-3-yl}phenyl)-N,N-dimethylurea and pyrrolidine provided the title compound. ESMS [M+H]+: 506.4

reactant | N′-(4-{4-[2-(4-formylphenyl)-1H-pyrrolo[2,3-b]pyridin-4-yl]-1H-pyrazol-3-yl}phenyl)-N,N-dimethylurea | C(=O)C1=CC=C(C=C1)C1=CC=2C(=NC=CC2C=2C(=NNC2)C2=CC=C(C=C2)NC(N(C)C)=O)N1 | C26H22N6O2
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | N,N-dimethyl-N′-[4-(4-{2-[4-(1-pyrrolidinylmethyl)phenyl]-1H-pyrrolo[2,3-b]pyridin-4-yl}-1H-pyrazol-3-yl)phenyl]urea | CN(C(=O)NC1=CC=C(C=C1)C1=NNC=C1C1=C2C(=NC=C1)NC(=C2)C2=CC=C(C=C2)CN2CCCC2)C | C30H31N7O
